US09376422B2
Step 1: synthesis of methyl 3-(1,4-dioxaspiro[4.5]decan-8-ylamino)-5-chloro-2-methylbenzoate
To a stirred solution of methyl 3-amino-5-chloro-2-methylbenzoate (5.0 g, 25 mmol) and 1,4-dioxaspiro[4.5]decan-8-one (5.86 g, 37.8 mmol) in dichloroethane (50 mL) was added acetic acid (9.0 g, 150 mmol) and the reaction mixture stirred at room temperature for 10 minutes. Then sodium triacetoxyborohydride (15.9 g, 752 mmol) was added at 0° C. and the reaction stirred overnight at room temperature. On completion, the reaction was quenched with aqueous sodium bicarbonate, the organic phase separated and the aqueous phase extracted with dichloromethane. The combined organic layers were dried over anhydrous sodium sulphate and concentrated under reduced pressure. The crude material was purified by silica gel column chromatography to afford the title compound (6.6 g, 76%).

reactant | methyl 3-amino-5-chloro-2-methylbenzoate | 25 mmol, 5.0 g | NC=1C(=C(C(=O)OC)C=C(C1)Cl)C | C9H10ClNO2
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 37.8 mmol, 5.86 g | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | acetic acid | 150 mmol, 9.0 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 752 mmol, 15.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | methyl 3-(1,4-dioxaspiro[4.5]decan-8-ylamino)-5-chloro-2-methylbenzoate | 6.6 g, 76% | O1CCOC12CCC(CC2)NC=2C(=C(C(=O)OC)C=C(C2)Cl)C | C17H22ClNO4
